### PR TITLE
[Merged by Bors] - feat (RingTheory/Binomial) : Standard lemmas for Ring.choose

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR has basic identities satisfied by general binomial coefficients, together with corresponding lemmas about evaluating Pochhammer polynomials.

---

- [ ] depends on: #13428
- [ ] depends on: #13430

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -368,6 +369,88 @@ theorem choose_natCast [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choo
...
+  rw [choose_zero_pos R hk]
+
+@[simp]
+theorem choose_one_right' (r : R) : choose r 1 = r ^ 1 := by
+  rw [choose, Nat.cast_one, sub_add_cancel, multichoose_one_right']
+
+theorem choose_one_right [NatPowAssoc R] (r : R) : choose r 1 = r := by
+  rw [choose_one_right', npow_one]
+
+theorem descPochhammer_succ_succ_smeval {R} [NonAssocRing R] [Pow R ℕ] [NatPowAssoc R]
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:411]: Could we replace the `succ` with `+1`?

File: Mathlib/RingTheory/Binomial.lean [hunk 2]
```diff
@@ -368,6 +369,88 @@ theorem choose_natCast [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choo
...
+    (k + 1) • smeval (descPochhammer ℤ k) r + smeval (descPochhammer ℤ (Nat.succ k)) r := by
+  nth_rw 1 [descPochhammer_succ_left]
+  rw [descPochhammer_succ_right, mul_comm (descPochhammer ℤ k)]
+  simp only [smeval_comp ℤ _ _ (r + 1), smeval_sub, smeval_add, smeval_mul, smeval_X, smeval_one,
+  npow_one, npow_zero, one_smul, add_sub_cancel_right, sub_mul, add_mul, add_smul, one_mul]
+  rw [← C_eq_natCast, smeval_C, npow_zero, add_comm (k • smeval (descPochhammer ℤ k) r) _,
+    add_assoc, add_comm (k • smeval (descPochhammer ℤ k) r) _, ← add_assoc,  ← add_sub_assoc,
+    nsmul_eq_mul, zsmul_one, Int.cast_natCast, sub_add_cancel, add_comm]
+
+theorem choose_succ_succ [NatPowAssoc R] (r:R) (k : ℕ) :
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:422]:
```suggestion
theorem choose_succ_succ [NatPowAssoc R] (r : R) (k : ℕ) :
```

File: Mathlib/RingTheory/Binomial.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/RingTheory/Binomial.lean:411]: and below.

File: Mathlib/RingTheory/Binomial.lean [hunk 3]
```diff
@@ -368,6 +369,88 @@ theorem choose_natCast [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choo
...
+    choose (r+1) (Nat.succ k) = choose r k + choose r (Nat.succ k) := by
+  refine nsmul_right_injective (Nat.factorial (k + 1)) (Nat.factorial_ne_zero (k + 1)) ?_
+  simp only [smul_add, ← descPochhammer_eq_factorial_smul_choose]
+  rw [Nat.factorial_succ, mul_smul,
+    ← descPochhammer_eq_factorial_smul_choose r, descPochhammer_succ_succ_smeval r k]
+
+theorem choose_eq_Nat_choose [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choose n k := by
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:429]: I *think* we usually lowercase `Nat` here.

File: Mathlib/RingTheory/Binomial.lean [hunk 4]
```diff
@@ -368,6 +369,88 @@ theorem choose_natCast [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choo
...
+  induction n generalizing k with
+  | zero => cases k with
+    | zero => rw [choose_zero_right, Nat.choose_zero_right, Nat.cast_one]
+    | succ k => rw [Nat.cast_zero, choose_zero_succ, Nat.choose_zero_succ, Nat.cast_zero]
+  | succ n ih => cases k with
+    | zero => rw [choose_zero_right, Nat.choose_zero_right, Nat.cast_one]
+    | succ k => rw [Nat.cast_succ, choose_succ_succ, ih, ih, Nat.choose_succ_succ, Nat.cast_add]
+
+theorem choose_mul [NatPowAssoc R] (r : R) (n k : ℕ) (hkn : k ≤ n) :
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:438]: This should be `choose_smul`. (Possibly in fact `choose_smul_choose` but don't have a strong opinion.

Comment (semorrison) [reply Mathlib/RingTheory/Binomial.lean:438]: and below.

File: Mathlib/RingTheory/Binomial.lean [hunk 5]
```diff
@@ -368,6 +369,88 @@ theorem choose_natCast [NatPowAssoc R] (n k : ℕ) : choose (n : R) k = Nat.choo
...
+  simp only
+  rw [nsmul_left_comm, ← descPochhammer_eq_factorial_smul_choose,
+    ← Nat.choose_mul_factorial_mul_factorial hkn, ← smul_mul_smul,
+    ← descPochhammer_eq_factorial_smul_choose, mul_nsmul',
+    ← descPochhammer_eq_factorial_smul_choose, smul_mul_assoc]
+  nth_rw 2 [← Nat.sub_add_cancel hkn]
+  rw [add_comm, ← descPochhammer_mul, smeval_mul, smeval_comp, smeval_sub, smeval_X,
+    ← C_eq_natCast, smeval_C, npow_one, npow_zero, zsmul_one, Int.cast_natCast, nsmul_eq_mul]
+
+theorem choose_mul' [NatPowAssoc R] (r : R) (n k : ℕ) :
```
Comment (semorrison) [inline Mathlib/RingTheory/Binomial.lean:450]: I wish this had a better name (I dislike primes!) but don't have a suggestion. If something comes to mind I'll trust you on it, otherwise it can stay.

**Comment by semorrison** [comment]
bors d+

**Comment by ScottCarnahan** [comment]
Thank you for the review!

bors r+
